US08026260B2
To a solution of 4-{1,1-difluoro-2-[2-(2-methoxybenzoyl)hydrazino]-2-oxoethyl}benzoic acid (65 mg, 0.18 mmol), tert-butyl (3-amino-1-phenyl-1H-pyrazol-4-yl)carbamate (74 mg, 0.27 mmol) and N,N-diisopropylethylamine (46 mg, 0.36 mmol) in methylene chloride (1.5 mL) was added (1H-1,2,3-benzotriazol-1-yloxy)(triisopropyl)phosphonium hexafluorophosphate (0.16 g, 0.36 mmol) and the reaction was sealed and heated to 60° C. for 16 hours. The reaction was purified by flash chromatography (0-4% methanol/methylene chloride) to give crude tert-butyl {3-[(4-{1,1-difluoro-2-[2-(2-methoxybenzoyl)hydrazino]-2-oxoethyl}benzoyl)amino]-1-phenyl-1H-pyrazol-4-yl}carbamate. ESIMS calcd 621.2 (M++U), found 621.2 (M++H).

reactant | 4-{1,1-difluoro-2-[2-(2-methoxybenzoyl)hydrazino]-2-oxoethyl}benzoic acid | 0.18 mmol, 65 mg | FC(C(=O)NNC(C1=C(C=CC=C1)OC)=O)(F)C1=CC=C(C(=O)O)C=C1 | C17H14F2N2O5
reactant | tert-butyl (3-amino-1-phenyl-1H-pyrazol-4-yl)carbamate | 0.27 mmol, 74 mg | NC1=NN(C=C1NC(OC(C)(C)C)=O)C1=CC=CC=C1 | C14H18N4O2
reactant | N,N-diisopropylethylamine | 0.36 mmol, 46 mg | C(C)(C)N(C(C)C)CC | C8H19N
reactant | (1H-1,2,3-benzotriazol-1-yloxy)(triisopropyl)phosphonium hexafluorophosphate | 0.36 mmol, 0.16 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](C(C)C)(C(C)C)C(C)C
solvent | methylene chloride | 1.5 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl {3-[(4-{1,1-difluoro-2-[2-(2-methoxybenzoyl)hydrazino]-2-oxoethyl}benzoyl)amino]-1-phenyl-1H-pyrazol-4-yl}carbamate | FC(C(=O)NNC(C1=C(C=CC=C1)OC)=O)(F)C1=CC=C(C(=O)NC2=NN(C=C2NC(OC(C)(C)C)=O)C2=CC=CC=C2)C=C1 | C31H30F2N6O6
